US05569768
2-(3,4-Diaminophenyl)benzonitrile (0.01 moles, 2.09 g) was dissolved in 10 ml trifluoroacetic acid and heated at 85° C. for 16 hours. The solution was poured into water and extracted with ethyl acetate. The pH was adjusted to 3.0 using 5N NaOH. The ethyl acetate was washed with brine, dried over sodium sulfate, and concentrated. The residue was chromatographed on silica gel eluted with 25 % ethyl acetate in hexane. The reaction yielded 2.05 g of 5-(2-cyanophenyl)-2-trifluoromethyl-1H-benzimidazole. (MS)

reactant | 2-(3,4-Diaminophenyl)benzonitrile | 0.01 moles, 2.09 g | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
reactant | water | O | H2O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-cyanophenyl)-2-trifluoromethyl-1H-benzimidazole | 2.05 g | C(#N)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)C(F)(F)F)C=C1 | C15H8F3N3
